US04617307
5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridinehydrochloride
A solution of 8.1 g of 5-(3-chloropropyl)-1-p-cyanophenylmethyl-1H-imidazole in 50 ml of tetrahydrofuran is cooled to 0°. To this is added 7.0 g of potassium t-butoxide as a solid in portions. The mixture is stirred at room temperature for 2 hours, neutralized with 10% acetic acid and partitioned between methylene chloride and water. The organic layer is washed with water, dried over magnesium sulfate and evaporated to yield an oil which is dissolved in a small volume of acetone and neutralized with ethereal hydrogen chloride. On cooling, the title compound is obtained as a white solid. M.P. 201°-203°.

reactant | 5-(3-chloropropyl)-1-p-cyanophenylmethyl-1H-imidazole | 8.1 g | ClCCCC1=CN=CN1CC1=CC=C(C=C1)C#N | C14H14ClN3
reactant | potassium t-butoxide | 7.0 g | CC(C)([O-])C.[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
solvent | hydrogen chloride | Cl | ClH
product | 5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridinehydrochloride | Cl.C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | InChI=1S/C14H13N3.ClH/c15-8-11-4-6-12(7-5-11)14-3-1-2-13-9-16-10-17(13)14;/h4-7,9-10,14H,1-3H2;1H
